US08053453B2
1) Synthesis of methyl 4-{[2-{1-(5-hydroxy-3-methyl-1-[5-(trifluoromethyl)-2-pyridinyl]-1H-pyrazol-4-yl}ethylidene)hydrazino]carbonyl}benzoate
0.2 mmol of 1-{5-hydroxy-3-methyl-1-[5-(trifluoromethyl)-2-pyridinyl]-1H-pyrazol-4-yl}ethanone and 0.2 mmol of 4-methoxycarbonylbenzhydrazide were heated in 2 ml of DMF at 100° C. for 9 hours with stirring. After the solvent was removed by evaporation, the resulting crude product was dissolved in chloroform and recrystallized from hexane to obtain 66 mg of the desired product, methyl 4-{([2-(1-{5-hydroxy-3-methyl-1-[5-(trifluoromethyl)-2-pyridinyl]-1H-pyrazol-4-yl}ethylidene)hydrazino]carbonyl}benzoate (yield 72%).

reactant | 1-{5-hydroxy-3-methyl-1-[5-(trifluoromethyl)-2-pyridinyl]-1H-pyrazol-4-yl}ethanone | 0.2 mmol | OC1=C(C(=NN1C1=NC=C(C=C1)C(F)(F)F)C)C(C)=O | C12H10F3N3O2
reactant | 4-methoxycarbonylbenzhydrazide | 0.2 mmol | COC(=O)C1=CC=C(C(=O)NN)C=C1 | C9H10N2O3
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | methyl 4-{[2-{1-(5-hydroxy-3-methyl-1-[5-(trifluoromethyl)-2-pyridinyl]-1H-pyrazol-4-yl}ethylidene)hydrazino]carbonyl}benzoate | 66 mg | OC1=C(C(=NN1C1=NC=C(C=C1)C(F)(F)F)C)C(C)=NNC(=O)C1=CC=C(C(=O)OC)C=C1 | C21H18F3N5O4
